### ISSUE TITLE
TC reduction bug: result type is not definitionally equal to

### ISSUE THREAD

**Issue by lecopivo** [leanprover/lean4#1131]
I'm fairly confident that I found a bug in TC synthesis or in simp. My guess is that simp is triggering TC synthesis with incorrect reduction settings.

What is happening that simp is failing to discharge a class synthesis that can be synthesized without a problem with `example : Class := by infer_instance`. The TC synthesis inside of simp fails with 
```
result type
  ∀ (x_1 : Nat), IsSmooth fun a => a x x_1 * a x x_1
is not definitionally equal to
  ∀ (x_1 : Nat), IsSmooth fun y => HMul.hMul (y x) (y x) x_1
``` 
where `(a y : Nat → Nat → α)` and I have defined multiplication on Pi types as `f * g = λ x => f x * g x`. So `HMul.hMul (y x) (y x) x_1` should be defEq to `(y x x_1) * (y x x_1)`, but for some reason that check fails.

To further test this, when I define my own multiplication `MyMul` and mark everything `reducible` then simp works correctly.

Tested on `Lean (version 4.0.0-nightly-2022-04-28, commit 575b1187c500, Release)`

MWE:

```
variable {α β γ δ : Type}

class IsSmooth  (f : α → β) : Prop

instance identity : IsSmooth fun a : α => a := sorry
instance const (b : β) : IsSmooth fun a : α => b := sorry
instance swap (f : α → β → γ) [∀ a, IsSmooth (f a)] : IsSmooth (λ b a => f a b) := sorry
instance parm (f : α → β → γ) [IsSmooth f] (b : β) : IsSmooth (λ a => f a b) := sorry
instance comp (f : β → γ) (g : α → β) [IsSmooth f] [IsSmooth g] : IsSmooth (fun a => f (g a)) := sorry
instance diag (f : β → δ → γ) (g : α → β) (h : α → δ) [IsSmooth f] [∀ b, IsSmooth (f b)] [IsSmooth g] [IsSmooth h] : IsSmooth (λ a => f (g a) (h a)) := sorry

instance mul_is_smooth_1 [Mul α] : IsSmooth (λ x y : α => x * y) := sorry
instance mul_is_smooth_2 [Mul α] (x : α) : IsSmooth (λ y : α => x * y) := sorry

instance pi_mul [Mul β] : Mul (α → β) := ⟨λ f g a => f a * g a⟩

def D : (α → β) → (α → α → β) := sorry

@[simp] theorem D_of_mul_1 [Mul α] : D (λ x y : α => x * y) = λ x dx y => dx * y := sorry
@[simp] theorem D_of_mul_2 [Mul α] (x : α) : D (λ y : α => x * y) = λ y dy => x * dy := sorry
@[simp] theorem D_of_swap (f : α → β → γ) [∀ x, IsSmooth (f x)] : D (λ y x => f x y) = λ y dy x => D (f x) y dy := sorry

set_option trace.Meta.Tactic.simp.discharge true in
-- set_option trace.Meta.synthInstance true in
example [Mul α] [Add α] 
  : D (λ (x : Nat → Nat → α) (i : Nat) => x i * x i) 
  = 
  (λ x dx i j => D (λ x' => ((x' i) * (x' i)) j) x dx) :=
by
  simp
  admit

-- The class that simp fails to discharse can by synthsized
example [Mul α] :  ∀ (x_1 : Nat), IsSmooth fun (y : Nat → Nat → α) => HMul.hMul (y x) (y x) x_1 := by infer_instance


--- The same test with custom multiplication that is reducible ---
------------------------------------------------------------------

class MyMul (α : Type) where
  myMul : α → α → α

export MyMul (myMul)
attribute [reducible] MyMul.myMul

@[reducible]
instance pi_my_mul [MyMul β] : MyMul (α → β) := ⟨λ f g x => myMul (f x) (g x)⟩

instance myMul_is_smooth_1 [MyMul α] : IsSmooth (λ x y : α => myMul x  y) := sorry
instance myMul_is_smooth_2 [MyMul α] (x : α) : IsSmooth (λ y : α => myMul x y) := sorry
@[simp] theorem D_of_myMul_1 [MyMul α] : D (λ x y : α => myMul x y) = λ x dx y => myMul dx y := sorry
@[simp] theorem D_of_myMul_2 [MyMul α] (x : α) : D (λ y : α => myMul x y) = λ y dy => myMul x dy := sorry

-- set_option trace.Meta.Tactic.simp.discharge true in
-- set_option trace.Meta.synthInstance true in
example [MyMul α] [Add α] 
  : D (λ (x : Nat → Nat → α) (i : Nat) => myMul (x i) (x i)) 
    = 
    (λ x dx i j => D (λ x' => myMul (α:=Nat→α) (x' i) (x' i) j) x dx) :=
by
  simp
  done
```
